US07244730B2
(Step 10) N5-Methyl-6-(dimethylamino)-3-imino-5-isoindolinecarboxamide
After dissolving N1-methyl-4-(azidomethyl)-5-cyano-2-(dimethylamino)benzamide (755 mg, 2.9 mmol) in methanol (50 ml), 10% palladium-carbon (50% wet) (0.2 g) was added prior to catalytic reduction for 30 minutes at room temperature and normal pressure. The catalyst was separated off, the solvent was distilled off under reduced pressure and ethyl acetate was added to the residue for crystallization. This was filtered off to yield the title compound (283 mg) as a faint yellow powder. (42% yield)

reactant | N1-methyl-4-(azidomethyl)-5-cyano-2-(dimethylamino)benzamide | 2.9 mmol, 755 mg | CNC(C1=C(C=C(C(=C1)C#N)CN=[N+]=[N-])N(C)C)=O | C12H14N6O
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium-carbon | 0.2 g | [C].[Pd]
product | N5-Methyl-6-(dimethylamino)-3-imino-5-isoindolinecarboxamide | 283 mg, 42% yield | CNC(=O)C=1C=C2C(NCC2=CC1N(C)C)=N | C12H16N4O
